US05484761
2-Difluoromethoxy-4-benzyloxypyridine (219.75 g, 0.875 mol), ethanol (500 mL) and palladium on carbon (7.8 g, 5 mol %, 50% by weight water) were shaken on a Parr hydrogenator at 5393 kPa of hydrogen at RT for 2.5 h. The mixture was then filtered through celite and the solvent was evaporated in-vacuo. 2-Difluoromethoxy-4-hydroxypyridine (123 g, 87% yield) was obtained as a white solid after trituration with hexane, mp=88.6° C. -89.8° C. Anal. Calcd. for C6H5NO2F2 : C,44.73; H,3.13; N,8.69 Found: C,44.82; H,3.13; N,8.76.

reactant | 2-Difluoromethoxy-4-benzyloxypyridine | 0.875 mol, 219.75 g | FC(OC1=NC=CC(=C1)OCC1=CC=CC=C1)F | C13H11F2NO2
reactant | ethanol | 500 mL | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 7.8 g | [Pd] | Pd
solvent | hexane | CCCCCC | C6H14
product | 2-Difluoromethoxy-4-hydroxypyridine | 123 g, 87% yield | FC(OC1=NC=CC(=C1)O)F | C6H5F2NO2
